US07777047B2
7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid
Ethyl 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylate (3.7 g) was dissolved in a mixed solvent of tetrahydrofuran (25 ml)-methanol (25 mL). Aqueous potassium hydroxide solution (prepared by dissolving potassium hydroxide (1.5 g) in water (20 mL)) was added to this solution, and the mixture was stirred at room temperature for 2 days. The reaction solution was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless crystals were washed with ethyl acetate-hexane to give the title compound (2.7 g, yield: 63%) as colorless crystals. MS: 399 (MH+). melting point: 211-212° C.

reactant | Ethyl 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylate | 3.7 g | CN(C=1C=CC=C2C=C(NC12)C(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C19H17F3N2O4S
reactant | potassium hydroxide | 20 mL, 1.5 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 mL | CO | CH4O
product | 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | 2.7 g, yield: 63% | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H13F3N2O4S
